US04192888
Following the procedure of Example 5, 5-chloro-2-indanone and methylamine hydrochloride gave N-methyl-5-chloro-2-indanamine.

reactant | 5-chloro-2-indanone | ClC=1C=C2CC(CC2=CC1)=O | C9H7ClO
reactant | methylamine hydrochloride | Cl.CN
product | N-methyl-5-chloro-2-indanamine | CNC1CC2=CC=C(C=C2C1)Cl | C10H12ClN
